US08420640B2
A solution of 5-nitro-2-(piperazin-1-yl)benzenamine (2.4 g, 10.7 mmol), benzoyl chloride (1.2 ml, 12.8 mmol) and triethylamine (6.0 ml, 42.7 mmol) in 40 ml DCM was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. (4-(2-Amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (3.0 g, 86%) was obtained by flash column chromatograph (40% ethyl acetate in hexanes). A solution of (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (0.3 g, 0.9 mmol), acetyl chloride (0.065 ml, 0.9 mmol) and sodium hydroxide (0.037 g, 0.9 mmol) in 20 ml THF was stirred at 0° C. for 2 hours. The mixture was concentrated. N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)acetamide (0.11 g, 32%) was obtained by flash column chromatograph (65% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.29 (s, 3H), 3.00 (s, br, 4H), 3.84 (s, br, 4H), 7.23 (d, J=8.8 Hz, 1H), 7.47-7.51 (m, 5H), 8.00 (dd, J=8.6, 2.6 Hz, 1H), 8.16 (s, br, 1H), 9.24 (s, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 25.3, 52.3, 116.0, 119.9, 120.8, 127.6, 129.2, 130.7, 135.6, 171.2.

reactant | (4-(2-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone | 0.9 mmol, 0.3 g | NC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)C1=CC=CC=C1 | C17H18N4O3
reactant | acetyl chloride | 0.9 mmol, 0.065 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 0.9 mmol, 0.037 g | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)acetamide | 0.11 g, 32% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C19H20N4O4
